US08217064B2
A mixture of ethyl 1-(5-chloro-4′-(methylthio)-6-(2,2,2-trifluoroethoxy)biphenyl-3-yl)cyclobutane carboxylate (325 mg, 0.70 mmol) and lithium hydroxide monohydrate (186 mg, 4.44 mmol) in MeOH/THF/Water solvent mixture (10 ml/10 ml/10/ml) was stirred for 3 h at room temperature. After completion of the reaction, the volatiles were removed under reduced pressure. The residue was diluted with water, acidified with 5% HCl solution and extracted with ethyl acetate (2×25 mL). The combined organic layers were washed with water, dried with Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by Flash Column Chromatography to give 1-(5-chloro-4′-(methylthio)-6-(2,2,2-trifluoroethoxy)biphenyl-3-yl)cyclobutane carboxylic acid (265 mg) as a white solid. 1HNMR (CDCl3): 7.46 (d, 2H), 7.38 (s, 1H), 7.32 (d, 2H), 7.19 (s, 1H), 3.93 (q, 2H); 2.83 (m, 2H), 2.53 (s, 3H), 2.32 (m, 2H), 2.13 (m, 1H), 1.93 (m, 1H).

reactant | ethyl 1-(5-chloro-4′-(methylthio)-6-(2,2,2-trifluoroethoxy)biphenyl-3-yl)cyclobutane carboxylate | 0.70 mmol, 325 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)SC)C1(CCC1)C(=O)OCC | C22H22ClF3O3S
reactant | lithium hydroxide monohydrate | 4.44 mmol, 186 mg | O.[OH-].[Li+]
solvent | MeOH THF Water | CO.C1CCOC1.O
product | 1-(5-chloro-4′-(methylthio)-6-(2,2,2-trifluoroethoxy)biphenyl-3-yl)cyclobutane carboxylic acid | 265 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)SC)C1(CCC1)C(=O)O | C20H18ClF3O3S
